US06548522B1
N-Hex-2-enyl-2,2-diphenyl-acetamide
The title compound, white solid, m.p. 81° C. and MS: m/e=293 (M+) was prepared in accordance with the general method of example 1 from diphenylacetyl chloride and hex-2-enylamine.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | hex-2-enylamine | C(C=CCCC)N | C6H13N
product | N-Hex-2-enyl-2,2-diphenyl-acetamide | C(C=CCCC)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C20H23NO
